US04057573
18 g of finely powdered aluminum chloride are added in portions of a solution of 8 g of indane-1-carboxylic acid methyl ester and 8.2 g of benzoyl chloride in 100 ml of carbon disulphide, whilst stirring in an anhydrous atmosphere. After completion of the addition, the reaction mixture is heated for 2 hours to the reflux temperature. It is then allowed to cool to room temperature, poured onto a mixture of 100 g of ice and 50 ml of concentrated hydrochloric acid and extracted with twice 100 ml of ether. The organic phases are combined, washed with twice 100 ml of water, dried over sodium sulphate and evaporated in vacuo. Distillation of the evaporation residue in a high vacuum gives 6-benzoyl-indane-1-carboxylic acid methyl ester in the fraction boiling at 165°-170° C (0.5 mm).

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | indane-1-carboxylic acid methyl ester | 8 g | COC(=O)C1CCC2=CC=CC=C12 | C11H12O2
reactant | benzoyl chloride | 8.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | carbon disulphide | 100 ml | C(=S)=S | CS2
product | 6-benzoyl-indane-1-carboxylic acid methyl ester | COC(=O)C1CCC2=CC=C(C=C12)C(C1=CC=CC=C1)=O | C18H16O3
